US04760134
The synthesis of 2-amino-4-(beta-sulfatoethylsulfonyl)-phenol is somewhat difficult in that it requires several reaction steps involving a high investment for equipment. In its preparation, it is necessary to start from 2-nitro-4-(beta-hydroxyethylsulfonyl)-anisole which is dealkylated by heating with aqueous sodium hydroxide solution to give 2-nitro-4-(beta-hydroxyethylsulfonyl)-phenol. The resulting phenol is then reduced to give 2-amino-4-(beta-hydroxyethyl-sulfonyl)-phenol which, in turn, must be sulfated in accordance with the disclosure of U.S. Pat. Nos. 3,364,194 or 4,334,076.

reactant | 2-nitro-4-(beta-hydroxyethylsulfonyl)-anisole | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)CCO)OC | C9H11NO6S
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-nitro-4-(beta-hydroxyethylsulfonyl)-phenol | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)CCO)O | C8H9NO6S
